US04849421
To a mixture of 2.4 g of 10-chloro-2-(4-chlorophenyl)-5,6-dihydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)-one, prepared in Example 11 in 25 ml of water and 300 ml of acetone is added 2.8 g of sodium hypobromite trihydrate. The mixture is stirred for 18 hours at room temperature and concentrated under reduced pressure. To the residue is added water, the precipitated crystals are collected by filtration and recrystallized from dimethylformamide-water to give 1.0 g of 10-chloro-2-(4-chlorophenyl)-5,6-dihydro-[1]benzothiepino[5,4-c]-pyridazin-3(2H)-one 7-oxide, melting at 239°-241° C. with decomposition.

reactant | 10-chloro-2-(4-chlorophenyl)-5,6-dihydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)-one | 2.4 g | ClC=1C=CC2=C(C1)C1=NN(C(C=C1CCS2)=O)C2=CC=C(C=C2)Cl | C18H12Cl2N2OS
reactant | acetone | 300 ml | CC(=O)C | C3H6O
reactant | sodium hypobromite trihydrate | 2.8 g | O.O.O.Br[O-].[Na+]
solvent | water | 25 ml | O | H2O
product | 10-chloro-2-(4-chlorophenyl)-5,6-dihydro-[1]benzothiepino[5,4-c]-pyridazin-3(2H)-one 7-oxide | 1.0 g | ClC=1C=CC2=C(C1)C1=NN(C(C=C1CCS2=O)=O)C2=CC=C(C=C2)Cl | C18H12Cl2N2O2S
